US06869952B2
A mixture of 1-(2,3-difluoro-6-nitrophenyl)-propan-2-one (183 g) and potassium carbonate (100 g) in methanol (1 L) was heated at reflux for 3 h. The reaction mixture was then cooled and concentrated in vacuo to remove most of the methanol. The residue was diluted with ethyl acetate (1 L), filtered and washed with water. The separated aqueous layer was neutralized with 2N HCl and extracted with ethyl acetate (2×500 mL). The combined organic layer was washed with brine, dried (Na2SO4) and concentrated in vacuo to give a brown solid. The solid was triturated with diethyl ether and filtered to provide 1-(2-fluoro-3-methoxy-6-nitrophenyl)-propan-2-one (121 g, 71%) as a yellow solid. LC/MS; (M+H)+=228.2.

reactant | 1-(2,3-difluoro-6-nitrophenyl)-propan-2-one | 183 g | FC1=C(C(=CC=C1F)[N+](=O)[O-])CC(C)=O | C9H7F2NO3
reactant | potassium carbonate | 100 g | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 1 L | CO | CH4O
product | 1-(2-fluoro-3-methoxy-6-nitrophenyl)-propan-2-one | 121 g, 71% | FC1=C(C(=CC=C1OC)[N+](=O)[O-])CC(C)=O | C10H10FNO4
